US05741438
In a four-necked flask equipped with a thermometer, dropping funnel and stirrer were placed 179 g (1.375 moles) of ethyl acetoacetate and 500 ml of ethanol, and then 31.5 g (1.375 moles) of sodium was added in portions thereto to form a solution. Then, a solution of 253.5 g (1.25 moles) of 4-chloromethylbiphenyl in 1000 ml of ethanol was added dropwise to the above solution at room temperature over a period of 2 hours. After completion of the addition, the resulting mixture was brought up to 65° C. and stirred at the temperature for 6 hours. After completion of the reaction ethanol was distilled off under reduced pressure, the residue obtained was extracted by addition of 1500 ml of toluene, and the organic layer was separated. The organic layer was washed with 10% hydrochloric acid, water, 5% aqueous sodium bicarbonate solution and water in said order and then concentrated under reduced pressure to obtain 353.5 g of 4-(2-ethoxycarbonyl-3-oxobutyl)biphenyl as a crude product.

reactant | ethyl acetoacetate | 1.375 moles, 179 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium | 1.375 moles, 31.5 g | [Na] | Na
reactant | 4-chloromethylbiphenyl | 1.25 moles, 253.5 g | ClCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Cl
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(2-ethoxycarbonyl-3-oxobutyl)biphenyl | 353.5 g | C(C)OC(=O)C(CC1=CC=C(C=C1)C1=CC=CC=C1)C(C)=O | C19H20O3
